US08058444B2
2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine
To a solution of 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine described in Preparation Example 1-4-3 (30.8 g, 120 mmol) and acetic acid (7.4 mL) in dimethylsulfoxide (150 mL) was added sodium borohydride (2.45 g, 64.8 mmol) at below 30° C. The reaction solution was stirred at room temperature for 40 minutes. To the reaction solution were added water and ethyl acetate and diethyl ether at below 30° C, and partitioned into water and organic layer. The aqueous layer was extracted with ethyl acetate. The organic layer and ethyl acetate layer were combined, washed with water (3 times) and sodium chloride water (once), dried over anhydrous magnesium sulfate and then filtered. The filtrate thereof was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:4) to obtain the title compound (15.2 g).

reactant | 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | [N+](=O)([O-])/C=C/C1=CC=C(COC2=NC=CC=C2)C=C1 | C14H12N2O3
reactant | acetic acid | 7.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 64.8 mmol, 2.45 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine | 15.2 g | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
